*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_COLD_START_TB_lpe.spi
#else
.include ../../../work/xsch/LELO_COLD_START_TB.spice
#endif
.include ../../../design/1812PS.lib
.include ../../../design/XGL6030.lib
*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p


*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------

VDD  VDD 0 dc 20m
R1   VG1  0 2Meg
R2   VG2  0 2Meg
*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all

.OPTIONS savecurrents
*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------

.control
set num_threads=8
set color0=white
set color1=black
unset askquit

tran 100n 3m
write
quit


.endc

.end
